US05057525
A mixture of 3.0 parts of 5-[(4-fluorophenyl)methyl]-N-methyl-5H-imidazo[4,5-c]pyridin-2-amine, 2.4 parts of methyl carbonochloridate, 1.2 parts of N,N-diethylethanamine and 260 parts of dichloromethane was stirred for 2 days at room temperature. The reaction mixture was evaporated. The solid residue was purified by column-chromatography over silica gel using a mixture of trichloromethane and methanol (94:6 by volume) as eluent. The pure fractions were collected and the eluent was evaporated. The residue was crystallized from 2-propanone, yielding 1 part of methyl [[5-[(4-fluorophenyl)methyl]-5H-imidazo[4,5-c]pyridin-2-yl]methyl]carbamate; mp. 178.8° C. (intermediate 98).

reactant | 5-[(4-fluorophenyl)methyl]-N-methyl-5H-imidazo[4,5-c]pyridin-2-amine | FC1=CC=C(C=C1)CN1C=C2C(C=C1)=NC(=N2)NC | C14H13FN4
reactant | methyl carbonochloridate | C(OC)(=O)Cl | C2H3ClO2
reactant | N,N-diethylethanamine | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | ClCCl | CH2Cl2
product | methyl [[5-[(4-fluorophenyl)methyl]-5H-imidazo[4,5-c]pyridin-2-yl]methyl]carbamate | FC1=CC=C(C=C1)CN1C=C2C(C=C1)=NC(=N2)CNC(OC)=O | C16H15FN4O2
